US05852014
7.42-7.23(m,1 H), 7.00-7.25(m,3 H), 6.20(s,1 H), 4.23(t,2 H), 3.79(t,2 H). b) 2,3-Dihydrothiazolo[3,2-a]indole-9-carboxylic acid 2,3-Dihydrothiazolo[3,2-a]indole was treated with trifluoroacetic anhydride using the method of Description 13a to afford 9-trifluoroacetylthiazolo[3,2-a]indole as a purple solid (85%).

reactant | 2,3-Dihydrothiazolo[3,2-a]indole-9-carboxylic acid 2,3-Dihydrothiazolo[3,2-a]indole | S1CCN2C1=CC=1C=CC=CC21.S2CCN1C2=C(C=2C=CC=CC12)C(=O)O
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 9-trifluoroacetylthiazolo[3,2-a]indole | 85% | FC(C(=O)C1=C2N(C=3C=CC=CC13)C=CS2)(F)F | C12H6F3NOS
